US08258501B2
0.5 g 2,4-dimethyl-3,4-dihydro-2H-pyrimido[1,2-a]pyrimidine hydroperchlorate was heated for 8 h in an acetic acid solution with palladium on activated charcoal, with H2 fed in. Subsequent filtration, removal of the solvent and addition of diethyl ether yielded the 2,4-dimethyl-1,3,4,6,7,8-hexahydro-2H-pyrimido[1,2-a]pyrimidine hydroacetate in the form of colorless crystals, which were recrystallized from ethanol.

reactant | 2,4-dimethyl-3,4-dihydro-2H-pyrimido[1,2-a]pyrimidine | 0.5 g | CC1N=C2N(C(C1)C)C=CC=N2 | C9H13N3
catalyst | palladium on activated charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-dimethyl-1,3,4,6,7,8-hexahydro-2H-pyrimido[1,2-a]pyrimidine | CC1NC=2N(C(C1)C)CCCN2 | C9H17N3
